US05434186
Using the procedure of example 4, and starting with 0.5 g (1.5 mmol) of (E)-3-[2-[(5-bromopentyl)oxy]phenyl]-2-propenoic acid methyl ester and 0.3 g (1.45 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one, (E)-3-[2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]phenyl]-2-propenoic acid was obtained in 24% overall yield after purification by flash chromatography (silica gel, chloroform-methanol-acetic acid) and recrystallization from acetonitrile as a colorless solid, mp 123°-126° C.

reactant | (E)-3-[2-[(5-bromopentyl)oxy]phenyl]-2-propenoic acid methyl ester | 1.5 mmol, 0.5 g | COC(\C=C\C1=C(C=CC=C1)OCCCCCBr)=O | C15H19BrO3
reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 1.45 mmol, 0.3 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
product | (E)-3-[2-[5-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]pentyloxy]phenyl]-2-propenoic acid | O=C1CCOC2=C1C=CC(=C2CCC)OCCCCCOC2=C(C=CC=C2)/C=C/C(=O)O | C26H30O6
